US06177440B1
B. Preparation of Ethyl 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate
A solution of 1.58 g of ethyl 5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate in 5 ml of dimethylformamide was added to 0.24 g of sodium hydride (60% in mineral oil) in 5 ml of dimethylformamide and stirred for 30 minutes at room temperature. Potassium iodide (90 mg) and 0.75 ml of benzyl bromide were then added and the reaction was stirred overnight. The reaction mixture was poured into 75 ml of saturated ammonium chloride solution and then extracted twice with ether. The extracts were washed with water and then with brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel using hexane/ethyl acetate mixtures to afford 1.09 g (53%) of the subtitle compound. ESIMS m/e 378 (M++1) NMR (300 MHz, CDCl3): δ 7.28-7.19 (m, 3H); 6.84 (d, J=7.4, 2H); 6.67 (d, J=7.8, 1H); 6.33 (d, J=7.9, 1H); 5.55 and 5.39 (ABq, J=7.8, 2H); 4.17 (q+m, J=6.9, 3H); 3.80 (s, 3H); 2.64 (dt, J=16.1, 5.3, 1H); 2.48 (dt, J=16.6, 6.9,1H); 2.41 (s, 3H); 2.05 (m, 2H); 1.95 (m, 1H); 1.83 (m, 1H); 1.25 (t, J=7.3, 3H).

reactant | ethyl 5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate | 1.58 g | COC1=C2C=3C(CCCC3NC2=C(C=C1)C)C(=O)OCC | C17H21NO3
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | Potassium iodide | 90 mg | [I-].[K+]
reactant | benzyl bromide | 0.75 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 75 ml | [Cl-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 9-benzyl-5-methoxy-8-methyl-1,2,3,4-tetrahydrocarbazole-4-carboxylate | 1.09 g, 53% | C(C1=CC=CC=C1)N1C2=C(C=CC(=C2C=2C(CCCC12)C(=O)OCC)OC)C | C24H27NO3
